US04317920
To a solution of 4.1 g. of 2-toluene-sulphonyloxy-3-phenoxy-hydratropic acid in 150 ml. of alcohol 24 g. of a W-6 nickel catalyst are added, and the mixture is hydrogenated at 25° C., under atmospheric pressure until a calculated amount of hydrogen is used up. The catalyst is filtered off, the filtrate is evaporated and the residue is taken up in water and acidified with a 10% aqueous hydrochloric acid solution. The separated oil is extracted with chloroform, the chloroform solution is dried over sodium sulphate and evaporated. 2.1 g. (89%) of 3-phenoxy-hydratropic acid are obtained. Melting point of the corresponding cyclohexylamine salt amounts to 151° C. to 153° C.

reactant | 2-toluene-sulphonyloxy-3-phenoxy-hydratropic acid | C=1(C(=CC=CC1)S(=O)(=O)OC1=C(C(C(=O)O)C)C=CC=C1OC1=CC=CC=C1)C | C22H20O6S
reactant | hydrogen | [H][H] | H2
catalyst | nickel | [Ni] | Ni
product | 3-phenoxy-hydratropic acid | 89% | O(C1=CC=CC=C1)C=1C=C(C(C(=O)O)C)C=CC1 | C15H14O3
